US07528164B2
2-Amino-4-(5-bromo-pyridin-3-yl)-3-cyano-7-methyl-4H-pyrrolo [2,3-h]chromene
The title compound was prepared from 5-bromo-pyridine-3-carbaldehyde (44 mg, 0.24 mmol), 4-hydroxy-1-methyl-indole (35 mg, 0.24 mmol), malononitrile (16 mg, 0.24 mmol) and piperidine (0.05 mL), similar to Example 10, and isolated as a solid. 1H NMR (CDCl3): 8.54 (d, J=2.4 Hz, 1H), 8.47 (d, J=1.8 Hz, 1H), 7.60 (m, 1H), 7.08 (d, J=3.0 Hz, 1H), 7.05 (d, J=8.4 Hz, 1H), 6.70 (d, J=8.7 Hz, 1H), 6.58 (d, J=3.0 Hz, 1H), 4.89 (s, 1H), 4.78 (brs, 2H), 3.79 (s, 3H).

reactant | 5-bromo-pyridine-3-carbaldehyde | 0.24 mmol, 44 mg | BrC=1C=C(C=NC1)C=O | C6H4BrNO
reactant | 4-hydroxy-1-methyl-indole | 0.24 mmol, 35 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | malononitrile | 0.24 mmol, 16 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.05 mL | N1CCCCC1 | C5H11N
product | 2-Amino-4-(5-bromo-pyridin-3-yl)-3-cyano-7-methyl-4H-pyrrolo [2,3-h]chromene | NC=1OC2=C3C(=CC=C2C(C1C#N)C=1C=NC=C(C1)Br)N(C=C3)C | C18H13BrN4O
